data/oMe_Silver.jsonl
{"reaction_id": "NR-071_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-C_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_5-C_6-CCCC(C)C_7-c1ccccc1","name": "Evans-Mislow Rearrangement","level": "medium","reactants_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)S(=O)(CCCC(C)C)","O(c1ccccc1)P(O(c1ccccc1))O(c1ccccc1)"],"products_smiles": ["OC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C)=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)"],"conditions": "P(OR)3","mechnism_text_description": "The reaction proceeds via a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to form an allylic sulfenate ester intermediate. This intermediate is then trapped by a thiophilic reagent, trialkyl phosphite, which attacks the sulfur atom. This attack results in the cleavage of the S-O bond to form an alkoxide. Subsequent protonation of the alkoxide yields the final allylic alcohol product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "S(CCCC(C)C)OC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C)=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)","step_weight": 0,"rationale": "The [2,3]-sigmatropic rearrangement proceeds via a concerted pericyclic pathway, driven by favorable orbital overlap and stabilization of the developing charges through conjugation with the allylic system."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[O-]C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C)=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)","step_weight": 0,"rationale": "Trialkyl phosphite, being a strong nucleophile toward soft electrophiles, attacks the sulfur atom, exploiting sulfur’s polarizability and leading to S–O bond cleavage to form a stabilized alkoxide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C)=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)","step_weight": 0,"rationale": "The alkoxide is protonated under the reaction conditions to yield the neutral allylic alcohol, driven by the thermodynamic stability of the alcohol and the availability of proton sources."}],"description": "The reaction involves a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to generate a sulfenate ester, which is then attacked by trialkyl phosphite at sulfur due to its thiophilicity. This cleavage yields an alkoxide, which is protonated to form the allylic alcohol."}
{"reaction_id": "NR-115_10-C(C)(C)C_1-c1ccccc1_2-CC_3-c1scnc1_4-c1ccccc1_5-c1occc1_6-c1ccccc1_7-C_8-C_9-CC","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(c1scnc1)C(O/C(=C(/c1ccccc1)C)/O[Si](C)(CC)(C(C)(C)C))(c1occc1)c1ccccc1)(c1ccccc1)CC"],"products_smiles": ["C(=C(c1scnc1)C(C(C(=O)O[Si](C)(CC)(C(C)(C)C))(C)c1ccccc1)(c1occc1)c1ccccc1)(c1ccccc1)CC"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(c1scnc1)C(C(C(=O)O[Si](C)(CC)(C(C)(C)C))(C)c1ccccc1)(c1occc1)c1ccccc1)(c1ccccc1)CC","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
